US09376422B2
Step 2: synthesis of methyl 3-amino-5-(2-methoxyethoxy)-2-methylbenzoate
To stirred solution of methyl 5-(2-methoxyethoxy)-2-methyl-3-nitrobenzoate (1.35 g, 4.83 mmol) in ethanol (20 mL) were added ammonium chloride (1.35 g, 25.0 mmol) dissolved in water (20 mL) and iron powder (1.07 g, 19.3 mmol). The resulting reaction mixture was heated at 80° C. for 3 h. On completion, the reaction mixture was filtered and the residue washed well with hot ethanol. The filtrate was concentrated and the residue was basified by aqueous sodium bicarbonate. The aqueous phase was extracted with ethyl acetate. The combined organic layers were washed with water, dried, concentrated under reduced pressure to give the crude title compound (1.23 g) which was used directly in the next step.

reactant | methyl 5-(2-methoxyethoxy)-2-methyl-3-nitrobenzoate | 4.83 mmol, 1.35 g | COCCOC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C12H15NO6
reactant | ammonium chloride | 25.0 mmol, 1.35 g | [Cl-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | iron | 19.3 mmol, 1.07 g | [Fe] | Fe
product | methyl 3-amino-5-(2-methoxyethoxy)-2-methylbenzoate | 1.23 g | NC=1C(=C(C(=O)OC)C=C(C1)OCCOC)C | C12H17NO4
